US09303007B2
A 1 L round bottom flask equipped with a nitrogen inlet, overhead agitator, thermocouple and heating mantle was charged with 50 g (225 mmol) (1R,3R,5R)-2-Azabicyclo[3.1.0]hexane-3-carboxamide (.CH3SO3H) and 250 mL isopropanol. The resulting slurry was then charged with 252 mL of 23 wt % NaOEt in EtOH (2.68 M, 675 mmol, 3.0 equiv) and stirred at 50° C. for ca. 1 h. The mixture was charged with 12.2 mL (675 mmol, 3 equiv) of water and heated to 60° C. The resulting slurry was allowed to stir at 60° C. for ca. 18 h. The slurry was cooled to rt and charged with 250 mL water and 98.2 g (450 mmol, 2.0 equiv) di-t-butyldicarbonate. Ethanol and isopropanol were removed via vacuum distillation and the aqueous mixture cooled to 0° C. The mixture was neutralized with 76 ml (456 mmol) 6M aqueous HCl while maintaining an internal temperature <5° C. The product was extracted with 500 mL MTBE and the rich organic layer was washed with 100 mL water. The clear solution was concentrated down to 150 mL via vacuum distillation and the resulting slurry was charged with 600 mL heptane while maintaining an internal temperature >45° C. The slurry was cooled to rt over ca. 30 min and allowed to stir at rt for ca. 2 h. The product was filtered, washed with 250 mL 4:1 heptane:MTBE and dried under vacuum at 70° C. to give 40.5 g (178 mmol, 79% yield, 99.8 AP at 205 nm) of (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid: 1H NMR (400 MHz, DMSO-d6) δ 12.48 (s, 1H), 4.02-3.80 (m, 1H), 3.45-3.15 (m, 1H), 2.40-2.19 (m, 1H), 2.19-2.0 (m, 1H), 1.70-1.50 (m, 1H), 1.50-1.20 (m, 9H), 0.83-0.60 (m, 1H), 0.33-0.55 (m, 1H); 13C NMR (100 MHz, DMSO-d6) δ 173.7, 173.2, 155.0, 154.3, 79.4, 60.5, 60.2, 37.6, 32.6, 31.8, 28.4, 28.2, 15.6, 15.2, 14.4; HRMS calcd for C11H18NO4 (M+H; ESI+): 228.1236. Found: 228.1234.

reactant | (1R,3R,5R)-2-Azabicyclo[3.1.0]hexane-3-carboxamide | 225 mmol, 50 g | [C@@H]12N[C@H](C[C@H]2C1)C(=O)N | C6H10N2O
reactant | NaOEt | CC[O-].[Na+]
reactant | EtOH | 675 mmol, 2.68 M, 3.0 equiv | CCO | C2H6O
reactant | di-t-butyldicarbonate | 450 mmol, 98.2 g, 2.0 equiv | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 456 mmol, 6M, 76 ml | Cl | ClH
solvent | water | 250 mL | O | H2O
solvent | isopropanol | 250 mL | C(C)(C)O | C3H8O
solvent | water | 675 mmol, 12.2 mL, 3 equiv | O | H2O
product | (1R,3S,5R)-2-(tert-butoxycarbonyl)-2-azabicyclo[3.1.0]hexane-3-carboxylic acid | 178 mmol, 40.5 g, 79% yield | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
